US04530929
In a 5 l flask is placed chloral hydrate (90 g, 0.54 mole) and water (1200 ml). To this solution is added sodium sulfate decahydrate (1300 g, 10.9 mole) followed by a solution of o-methylaniline (54 g, 0.5 mole) in water (300 ml) containing concentrated hydrochloric acid (43 ml, 0.5 mole). Then a solution of hydroxylamine hydrochloride (110 g, 1.58 mole) in water (50 ml) is added. The reaction mixture is heated to reflux over a 90 minute period and refluxed 30 minutes. The reaction is cooled in ice and the resulting crystalline ortho-isonitrosoacetotoluidide is isolated by filtration and air dried. The orthoisonitrosoacetotoluidide is dissolved in portions in concentrated sulfuric acid (325 ml) that is preheated to 50° C. with vigorous stirring. The reaction temperature is maintained under 75° C. When the addition is complete, the mixture is heated at 80° C. for 30 minutes, cooled, and poured unto ice (3 kg). The 7-methylisatin is isolated by filtration. The 7-methylisatin is purified by dissolution in dilute sodium hydroxide. The basic solution is treated with 4N hydrochloric acid until a slight amount of precipitation is evident. The mixture is filtered and the filtrate is acidified. The pure 7-methylisatin is recovered by filtration and dried in vacuo at 80° C. and 0.1 mm pressure, mp 114°-145° C. (A. Wahl, et al., Ann. Chim. 5 314 (1926).

reactant | chloral hydrate | 0.54 mole, 90 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate decahydrate | 10.9 mole, 1300 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | o-methylaniline | 0.5 mole, 54 g | CC1=C(N)C=CC=C1 | C7H9N
reactant | hydrochloric acid | 0.5 mole, 43 ml | Cl | ClH
reactant | hydroxylamine hydrochloride | 1.58 mole, 110 g | Cl.NO
solvent | water | 300 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | water | 1200 ml | O | H2O
product | 7-methylisatin | CC=1C=CC=C2C(C(NC12)=O)=O | C9H7NO2
